US05998433
a) Synthesis of 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one
To a solution of 0.270 g (1.692 mmol) of 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride, 0.36 g (1.9 mmol) of 6-phenylhexanoic acid and 0.94 ml (6.8 mmol) of triethylamine in 30 ml of dichloromethane, 0.39 ml (2.5 mmol) of diethyl cyanophosphonate was added dropwise under ice-cooling, followed by overnight stirring at room temperature. The reaction mixture was poured into aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel chromatography (hexane/ethyl acetate=6/1 to 3/1) to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | 1.692 mmol, 0.270 g | Cl.O1C=CC2=C1CNCC2
reactant | 6-phenylhexanoic acid | 1.9 mmol, 0.36 g | C1(=CC=CC=C1)CCCCCC(=O)O | C12H16O2
reactant | triethylamine | 6.8 mmol, 0.94 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 2.5 mmol, 0.39 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one | O1C=CC2=C1CN(CC2)C(CCCCCC2=CC=CC=C2)=O | C19H23NO2
